US04576749
(A) (3S-trans)-N-[[3-[[t-Butoxycarbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]carbonyl]-N-methylglycine, t-butyl ester
A solution of phosgene in toluene (1.35 ml of a 20% solution, 2.698 mmol) was cooled to -25° C. under an argon atmosphere. A solution of N-methylglycine, t-butyl ester (218 mg, 1.498 mmol) and triethylamine (251 μl, 1.798 mmol) in dichloromethane (2 ml) was added dropwise over 5 minutes. The reaction was stirred for 1 hour at -25° C. (after 15 minutes an additional 0.2 ml of dichloromethane was added to facilitate stirring). The volatiles were removed starting at -25° C. and slowly by warming to room temperature. The residue was dissolved in methylene chloride (5 ml), cooled to 0° C. and treated with (3S-trans)-3-[[t-butoxycarbonyl]amino]-4-methyl-2-azetidinone (300 mg, 1.498 mmol; pre-dried over P2O5 at 25° C. under high vacuum), 4-dimethylaminiopyridine (18 mg, 0.149 mmol), and triethylamine (251 μl, 1.798 mmol). The resulting mixture was warmed to room temperature, stirred for 36 hours, treated with additional triethylamine (502 μl), and refluxed for 5 hours. The reaction was cooled, diluted with ethyl acetate, washed with pH 4.5 KH2PO4, and with brine, and then dried over sodium sulfate. Filtration and concentration in vacuo produced 525 mg of an oil which was chromatographed on 21 g of silica gel (230-400 mesh). Elution with 40% ethyl acetate-hexane gave 356 mg of the title compound as a white solid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-methylglycine, t-butyl ester | 1.498 mmol, 218 mg | CNCC(=O)OC(C)(C)C | C7H15NO2
reactant | triethylamine | 1.798 mmol, 251 μl | C(C)N(CC)CC | C6H15N
reactant | (3S-trans)-3-[[t-butoxycarbonyl]amino]-4-methyl-2-azetidinone | 1.498 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@H]1C)=O | C9H16N2O3
reactant | triethylamine | 1.798 mmol, 251 μl | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 502 μl | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
product | (3S-trans)-N-[[3-[[t-Butoxycarbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]carbonyl]-N-methylglycine, t-butyl ester | 525 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)C(=O)N(CC(=O)OC(C)(C)C)C)=O | C17H29N3O6
